US04008269
To 15.0 g. (0.0476 moles) of ethyl 3-chloro-4-cyclohexylphenylglycolate there is added slowly with stirring at 40°-50° C 23 g. (0.053 moles) of phosphorus pentabromide. The mixture is stirred at room temperature for 16 hours, then diluted with 70 ml. of petroleum ether, and poured into 125 ml. of ice-cold water. The organic phase is separated, washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo to obtain ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate.

reactant | ethyl 3-chloro-4-cyclohexylphenylglycolate | 0.0476 moles | ClC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)O | C16H21ClO3
reactant | phosphorus pentabromide | 0.053 moles | P(Br)(Br)(Br)(Br)Br | Br5P
product | ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate | BrC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20BrClO2
